US06117881
(E)-3-[4-(2-(Tertbutyldimethylsilanyloxy)-3-dimethylaminopropenyl)phenyl]acrylic acid
This product was prepared by refluxing for four hours (E)-3-[4-(2-(tertbutyldimethylsilanyloxy)-3-dimethylaminopropanyl)phenyl]acrylic acid, methyl ester (0.8 g, 2.03 mmol) and NaOH (1N) (4 mL, 2 equiv.) in 10 mL of MeOH. Evaporation of the solvent in vacuo and treatment with 5 mL of HCl (1N) gave the title compound (0.4 g, 60%) as a beige solid solid.

reactant | (E)-3-[4-(2-(tertbutyldimethylsilanyloxy)-3-dimethylaminopropanyl)phenyl]acrylic acid, methyl ester | 2.03 mmol, 0.8 g | C(C)(C)(C)[Si](OC(CC1=CC=C(C=C1)/C=C/C(=O)OC)CN(C)C)(C)C | C21H35NO3Si
reactant | NaOH | 1N, 4 mL, 2 equiv. | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | (E)-3-[4-(2-(Tertbutyldimethylsilanyloxy)-3-dimethylaminopropenyl)phenyl]acrylic acid | 0.4 g, 60% | C(C)(C)(C)[Si](OC(=CC1=CC=C(C=C1)/C=C/C(=O)O)CN(C)C)(C)C | C20H31NO3Si
